US07320986B2
5-(benzyloxy)-2-(6-methoxy-2-naphthoyl)indan-1-one
5-Benzyloxyindanone (1.5 g, 6.29 mmol) was treated with NaH (60%, 377 mg) in THF (50 mL), and then Example 168A (1.59 g) was added. The reaction was stirred for 6 hours at room temperature. The precipitates were collected by filtration and dissolved in water, acidified with concentrated HCl, and the resulting precipitates were collected, washed with water and dried to give the title compound.

reactant | 5-Benzyloxyindanone | 6.29 mmol, 1.5 g | C(C1=CC=CC=C1)OC=1C=C2CCC(C2=CC1)=O | C16H14O2
reactant | NaH | 377 mg | [H-].[Na+]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-(benzyloxy)-2-(6-methoxy-2-naphthoyl)indan-1-one | C(C1=CC=CC=C1)OC=1C=C2CC(C(C2=CC1)=O)C(=O)C1=CC2=CC=C(C=C2C=C1)OC | C28H22O4
